US08440689B2
A. tert-Butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate
A mixture of tert-butyl 4,6-dichloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (1.42 g, 4.43 mmol), tert-butyl (3R,4R)-4-aminotetrahydro-2H-pyran-3-ylcarbamate (1.15 g, 5.52 mmol), diisopropylethylamine (3.87 mL, 22.16 mmol) in DMSO (10 mL) and 2-propanol (40 mL) were heated to 100° C. in an oil bath for 20 h. The solution was then concentrated and the resulting oil was dissolved in water (50 mL) and heated in an oil bath to 50° C. for 1 h then allowed to cool to RT. The solution was subsequently heated to 50° C. for 15 min, allowed to cool to RT, again heated to 50° C. for 15 min, and allowed to cool to RT. The resulting precipitate was filtered and rinsed with water to give the title compound as a pale pinkish-white solid (1.90 g, 86%, 4:1 mixture with regioisomer) which was used in the next step without further purification. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.36 (s, 9H), 1.50 (s, 3H), 1.59-1.61 (m, 1H), 1.97-1.99 (m, 1H), 1.97-1.99 (m, 1H), 3.46-3.49 (m, 2H), 3.80-3.83 (m, 3H), 4.31-4.33 (m, 1H), 4.73 (s, 1H), 6.59 (d, J=7.30 Hz, 1H), 7.43 (d, J=7.30 Hz, 1H). [M+H] calc'd for C22H30ClFN4O6, 501. found, 501.

reactant | tert-butyl 4,6-dichloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 4.43 mmol, 1.42 g | ClC1=NC(=C(C2=C1C(N(C2)C(=O)OC(C)(C)C)=O)F)Cl | C12H11Cl2FN2O3
reactant | tert-butyl (3R,4R)-4-aminotetrahydro-2H-pyran-3-ylcarbamate | 5.52 mmol, 1.15 g | N[C@H]1[C@H](COCC1)NC(OC(C)(C)C)=O | C10H20N2O3
reactant | diisopropylethylamine | 22.16 mmol, 3.87 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | 2-propanol | 40 mL | CC(C)O | C3H8O
product | tert-Butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 1.90 g, 86% | C(C)(C)(C)OC(=O)N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)Cl)C(N(C2)C(=O)OC(C)(C)C)=O)F | C22H30ClFN4O6
